US09428509B2
4-(4-Cyclopropoxy-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-3-methoxy-N-methylbenzamide
A mixture of 6-(2-chloro-4-cyclopropoxy-7-((2-(trimethylsilyl)-ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), 4-amino-3-methoxy-N-methylbenzamide (2 equiv), potassium carbonate (3.5 equiv), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.23 equiv), tris(dibenzylideneacetone)dipalladium (0.23 equiv) in 1,4-dioxane (0.085 M) was purged with nitrogen and sealed. The reaction mixture was heated to 140° C. for 1.5 h. After cooling to room temperature the reaction mixture was purified using flash chromatography (0-100% ethyl acetate in hexane then 0-20% MeOH in DCM) eluted with 17% MeOH in DCM to give the title compound (57.5% yield) as brown oil. MS (ESI) m/z 615.4 [M+1]+.

reactant | 6-(2-chloro-4-cyclopropoxy-7-((2-(trimethylsilyl)-ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CC2 | C23H27ClN4O3Si
reactant | 4-amino-3-methoxy-N-methylbenzamide | 2 equiv | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
reactant | potassium carbonate | 3.5 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.23 equiv | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | 1,4-dioxane | 0.085 M | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.23 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4-Cyclopropoxy-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-3-methoxy-N-methylbenzamide | 57.5% yield | C1(CC1)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC)C=C1)OC)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C | C32H38N6O5Si
